US07622583B2
4-Chloro -N-[5-chloro-2-(6-fluoro-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
6-Fluoro-3,4-dihydro-2H-benzo[1,4]oxazine 5-chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid, T3P, and Et3N were reacted according to the procedure D to provide the title compound. HPLC purification provided 4-chloro-N-[5-chloro-2-(6-fluoro-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide: Reverse phase HPLC gradient acetonitrile 0.1% TFA 20-95% in 4 min: 3.041 min MS m/z: 550.1 (M+H).

reactant | 6-Fluoro-3,4-dihydro-2H-benzo[1,4]oxazine 5-chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F.FC=1C=CC2=C(NCCO2)C1
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | Et3N | CCN(CC)CC | C6H15N
product | 4-Chloro -N-[5-chloro-2-(6-fluoro-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)N1CCOC2=C1C=C(C=C2)F)C(F)(F)F | C21H13Cl2F4N3O4S
